US07902187B2
6-chloro-N4-(trans-4-methoxycyclohexyl)pyrimidine-2,4,5-triamine.
2,5-diamino-4,6-dichloropyrimidine (6 g, 33.5 mmol), trans-4-methoxy cyclohexyl amine (4.32 g, 33.5 mmol, 1 equiv.), sodium bicarbonate (9.85 g, 117.2 mmol, 3.5 equiv.) and 1-butanol (350 mL) were heated together at 150° C. in a sealed tube. After 3 days, when the reaction appeared to be complete (by HPLC), the reaction mixture was cooled to room temperature and the solvent was removed in vacuo. The residue was purified by flash chromatography (silica gel, gradual elution with 96/4 methylene chloride/methanol to 90/10 methylene chloride/methanol) to give the desired product as a brown solid (69% yield). MS (EI) m/z 272 (MH)+.

reactant | 2,5-diamino-4,6-dichloropyrimidine | 33.5 mmol, 6 g | NC1=NC(=C(C(=N1)Cl)N)Cl | C4H4Cl2N4
reactant | trans-4-methoxy cyclohexyl amine | 33.5 mmol, 4.32 g, 1 equiv. | CO[C@@H]1CC[C@H](CC1)N | C7H15NO
reactant | sodium bicarbonate | 117.2 mmol, 9.85 g, 3.5 equiv. | C([O-])(O)=O.[Na+]
solvent | 1-butanol | 350 mL | C(CCC)O | C4H10O
product | 6-chloro-N4-(trans-4-methoxycyclohexyl)pyrimidine-2,4,5-triamine | 69% yield | ClC1=C(C(=NC(=N1)N)N[C@@H]1CC[C@H](CC1)OC)N | C11H18ClN5O
